US04187223
Following procedure similar to that described in Example 4 but employing 5.1 g of 2-[4-(diethylamino)-2-ethoxy)-benzoyl]benzoic acid and 3.4 g of 4-acetamido-N-phenylaniline there was obtained 4.8 g of 3-[4-(diethylamino)-2-ethoxyphenyl]-3-](4-acetamidophenyl)phenylamino]phthalide, m.p. 126°-131° C. A toluene solution of the product contacted with acidic clay or phenolic resin developed and orange-colored image.

reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 4-acetamido-N-phenylaniline | 3.4 g | C(C)(=O)NC1=CC=C(NC2=CC=CC=C2)C=C1 | C14H14N2O
product | phthalide | C1(=O)OCC2=CC=CC=C12 | C8H6O2
